US06521666B1
BBr3 (1 mL, 1M in CH2Cl2) was added to a CH2Cl2 (10 mL) solution of N-(2,6-dichlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine methyl ester (0.215 g) at 0°0 C. with stirring and the solution was slowly warmed to room temperature. The mixture was stirred for 3 h and quenched with EtOH. The solvent was removed and the residue was taken up in EtOAc. The solution was washed with satd. NaHCO3 followed by brine, dried (MgSO4) and evaporated. The residue was purified by flash column chromatography (silica gel; eluent: hexanes/EtOAc 2:1) to yield 0.105 g of N-(2,6-dichlorobenzoyl)-4-(2-hydroxyphenyl)-L-phenylalanine methyl ester. ESMS: m/z 444 (MH+).

reactant | BBr3 | 1M, 1 mL | B(Br)(Br)Br | BBr3
reactant | N-(2,6-dichlorobenzoyl)-4-(2-methoxyphenyl)-L-phenylalanine methyl ester | 0.215 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)OC)=O | C24H21Cl2NO4
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(2,6-dichlorobenzoyl)-4-(2-hydroxyphenyl)-L-phenylalanine methyl ester | 0.105 g | COC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)O)=O | C23H19Cl2NO4
